US07585880B2
3-[4-[[4-[[(2-phenylethyl)(4-phenyl-1,3-thiazol-2-yl)amino]methyl]benzyl]oxy]phenyl]propanoic acid
A mixture of methyl 3-[4-[[4-[[(2-phenylethyl)(4-phenyl-1,3-thiazol-2-yl)amino]methyl]benzyl]oxy]phenyl]propanoate (270 mg, 0.480 mmol), tetrahydrofuran (15 mL), methanol (10 mL), water (10 mL) and lithium hydroxide monohydrate (60.4 mg, 1.44 mmol) was stirred at room temperature for 3 hr. The reaction mixture was neutralized with 1N hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was recrystallized from ethyl acetate-hexane to give the title compound (162 mg, yield 62%) as colorless crystals.

reactant | methyl 3-[4-[[4-[[(2-phenylethyl)(4-phenyl-1,3-thiazol-2-yl)amino]methyl]benzyl]oxy]phenyl]propanoate | 0.480 mmol, 270 mg | C1(=CC=CC=C1)CCN(C=1SC=C(N1)C1=CC=CC=C1)CC1=CC=C(COC2=CC=C(C=C2)CCC(=O)OC)C=C1 | C35H34N2O3S
reactant | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
reactant | lithium hydroxide monohydrate | 1.44 mmol, 60.4 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | 10 mL | O | H2O
solvent | methanol | 10 mL | CO | CH4O
product | 3-[4-[[4-[[(2-phenylethyl)(4-phenyl-1,3-thiazol-2-yl)amino]methyl]benzyl]oxy]phenyl]propanoic acid | 162 mg, yield 62% | C1(=CC=CC=C1)CCN(C=1SC=C(N1)C1=CC=CC=C1)CC1=CC=C(COC2=CC=C(C=C2)CCC(=O)O)C=C1 | C34H32N2O3S
